US03966736
In the manner given in Example 1, 6,11-dihydro-11-(piperidinoacetyl)-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one is reacted with phosphorus pentasulfide in pyridine to give 6,11-dihydro-11-(piperidinoacetyl)-5H-pyrido-[2,3-b][1,5]benzodiazepin-5-thione.

reactant | 6,11-dihydro-11-(piperidinoacetyl)-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | N1(CCCCC1)CC(=O)N1C2=C(C(NC3=C1C=CC=C3)=O)C=CC=N2 | C19H20N4O2
reactant | phosphorus pentasulfide | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 6,11-dihydro-11-(piperidinoacetyl)-5H-pyrido-[2,3-b][1,5]benzodiazepin-5-thione | N1(CCCCC1)CC(=O)N1C2=C(C(NC3=C1C=CC=C3)=S)C=CC=N2 | C19H20N4OS
